US07956083B2
1-(2,5-difluoro-4-hydroxyphenyl)-1H-indol-4-ol (E12)
1-{2,5-difluoro-4-[(phenylmethyl)oxy]phenyl}-4-[(phenylmethyl)oxy]-1H-indole (D22) (258 mg, 0.584 mmoL)) was dissolved in ethyl acetate (10 mL) and was hydrogenated at room temperature and atmospheric pressure in the presence of 10% palladium on charcoal (50% wet) (120 mg). After 22 hours the mixture was filtered and concentrated in vacuo. The crude product was purified by MDAP to give the title compound (E12), (114 mg).

reactant | 1-{2,5-difluoro-4-[(phenylmethyl)oxy]phenyl}-4-[(phenylmethyl)oxy]-1H-indole | 258 mg | FC1=C(C=C(C(=C1)OCC1=CC=CC=C1)F)N1C=CC2=C(C=CC=C12)OCC1=CC=CC=C1 | C28H21F2NO2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 120 mg | [Pd] | Pd
product | 1-(2,5-difluoro-4-hydroxyphenyl)-1H-indol-4-ol | 114 mg | FC1=C(C=C(C(=C1)O)F)N1C=CC=2C(=CC=CC12)O | C14H9F2NO2
